US07932394B2
(Step 4) Production of methyl 2-fluoro-5-nitro-4-[(2-pyridinylcarbonyl)amino]benzoate
With cooling with ice, 110 ml of fuming nitric acid was gradually added to 27.7 g of methyl 2-fluoro-4-[(2-pyridinylcarbonyl)amino]benzoate, and stirred at room temperature for 1.5 hours. With cooling with ice, the reaction liquid was gradually added to a solution of sodium carbonate (138 g) in water (2000 ml), and the formed solid was taken out through filtration. This was dried under reduced pressure to obtain 27.5 g of the entitled compound as a yellow solid.

reactant | nitric acid | 110 ml | [N+](=O)(O)[O-] | HNO3
reactant | methyl 2-fluoro-4-[(2-pyridinylcarbonyl)amino]benzoate | 27.7 g | FC1=C(C(=O)OC)C=CC(=C1)NC(=O)C1=NC=CC=C1 | C14H11FN2O3
reactant | sodium carbonate | 138 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2000 ml | O | H2O
product | methyl 2-fluoro-5-nitro-4-[(2-pyridinylcarbonyl)amino]benzoate | 27.5 g | FC1=C(C(=O)OC)C=C(C(=C1)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C14H10FN3O5
